US06506779B1
2-Sulfamyl-5-hydrazino-pyridine hydrochloride salt (Step 2)
To a stirred solution of 2-Sulfamyl-5-amino-pyridine (3 g) in concentrated hydrochloric acid solution (23 ml) was added NaNO2 (1.4 g, 20 mmol) in water (23 ml) while maintaining the temperature between −5° C. and 0° C. After the reaction mixture was stirred at 0° C. for 1.5 hours, SnCl2 (19 g) in concentrated hydrochloric acid solution (25 ml) was added, and the resulting reaction mixture was stirred at 0° C. for 1 hour, then room temperature overnight. The pH of the reaction solution was adjusted to 8 by addition of NaOH (24 g) in water (30 ml), followed by the addition of THF (200 ml). After stirred at room temperature for 30 minutes, the reaction mixture was filtered through Celite®. The aqueous layer was extracted with THF (3×200 ml) and ethyl acetate (2×200 ml). The combined organic layers were dried with sodium sulfate (Na2SO4), and concentrated in vacuo. The product was dissolved in 10% HCl in methanol (50 ml), and the solvent was removed in vacuo to give title compound (2.5 g).

reactant | 2-Sulfamyl-5-amino-pyridine | 3 g | S(N)(=O)(=O)C1=NC=C(C=C1)N | C5H7N3O2S
reactant | NaNO2 | 20 mmol, 1.4 g | N(=O)[O-].[Na+]
reactant | SnCl2 | 19 g | Cl[Sn]Cl
reactant | NaOH | 24 g | [OH-].[Na+]
solvent | hydrochloric acid | 23 ml | Cl | ClH
solvent | water | 23 ml | O | H2O
solvent | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-Sulfamyl-5-hydrazino-pyridine hydrochloride salt | 2.5 g | Cl.S(N)(=O)(=O)C1=NC=C(C=C1)NN | InChI=1S/C5H8N4O2S.ClH/c6-9-4-1-2-5(8-3-4)12(7,10)11;/h1-3,9H,6H2,(H2,7,10,11);1H
